US07521461B2
2-(4-Chlorophenyl)-N-heptylacetamide (0.886 g, 3.797 mmol) was dissolved in THF (10 ml) and was cooled to zero degrees under argon atmosphere. (Methylthio)methane compound with borane (1:1) (0.741 g, 9.755 mmol) was added and the mixture was refluxed for 5 hours. After the mixture was cooled to room temperature, 5 ml HCl (10%) was gently added and the mixture was stirred overnight. The solvent was removed by evaporation. EtOAc (20 ml) was added and the organic phase was washed with K2CO3 (2M, 2×20 ml). The crude was purified by flash chromatography (started with isocratic heptane/EtOAc 50/50 and then the EtOAc concentration was increased to 100%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the EtOAc was removed by evaporation to give 0.609 g of N-[2-(4-chlorophenyl)ethyl]-N-heptylamine (yield 61.5%).

reactant | 2-(4-Chlorophenyl)-N-heptylacetamide | 3.797 mmol, 0.886 g | ClC1=CC=C(C=C1)CC(=O)NCCCCCCC | C15H22ClNO
reactant | (Methylthio)methane compound with borane | 9.755 mmol, 0.741 g | B.CSC
reactant | HCl | 5 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[2-(4-chlorophenyl)ethyl]-N-heptylamine | 0.609 g, yield 61.5% | ClC1=CC=C(C=C1)CCNCCCCCCC | C15H24ClN
